US06911468B2
(1) Ethyl (2E)-3-(4-pentylphenyl)propenoate
To a solution of 4-pentylbenzaldehyde (25 g, 142 mmol) and ethyl diethylphosphonoacetate (30 ml, 150 mmol) in THF was added sodium hydride (60%, 6 g, 150 mmol), and the mixture was stirred at room temperature for 12 hours and poured into ice water. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate anhydride, and the solvent was removed under reduced pressure to give the object compound as an oily substance. 39.6 g, (yield 100%)

reactant | 4-pentylbenzaldehyde | 142 mmol, 25 g | C(CCCC)C1=CC=C(C=O)C=C1 | C12H16O
reactant | ethyl diethylphosphonoacetate | 150 mmol, 30 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 150 mmol, 6 g | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-(4-pentylphenyl)propenoate | yield 100% | C(CCCC)C1=CC=C(C=C1)/C=C/C(=O)OCC | C16H22O2
